US08703805B2
To a solution of tert-butyl 2-(3-(5-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)thiophen-2-yl)phenoxy)-2-methylpropanoate (47 mg, 84 μmol) in dichloromethane (0.5 mL) was added formic acid (1.0 mL). The resulting pale orange solution was allowed to stir at ambient temperature. After 5 hours at ambient temperature, LC/MS analysis of the reaction showed ˜5% of the starting ester remaining. After 7 hours stirring at ambient temperature the reaction mixture was concentrated under reduced pressure to afford crude product. This material was purified by flash column chromatography eluting with a gradient from CH2Cl2 to 10% MeOH/CH2Cl2 to afford 2-(3-(5-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)thiophen-2-yl)phenoxy)-2-methylpropanoic acid (21.7 mg, 51% yield) as an off white foam. MS(ES): 509 [M+H]+.

reactant | tert-butyl 2-(3-(5-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)thiophen-2-yl)phenoxy)-2-methylpropanoate | 84 μmol, 47 mg | ClC1=C(C=CC=C1)N1N=C(C=C1C1=CC=C(S1)C=1C=C(OC(C(=O)OC(C)(C)C)(C)C)C=CC1)C(F)(F)F | C28H26ClF3N2O3S
reactant | formic acid | 1.0 mL | C(=O)O | CH2O2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 2-(3-(5-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)thiophen-2-yl)phenoxy)-2-methylpropanoic acid | 21.7 mg, 51% yield | ClC1=C(C=CC=C1)N1N=C(C=C1C1=CC=C(S1)C=1C=C(OC(C(=O)O)(C)C)C=CC1)C(F)(F)F | C24H18ClF3N2O3S
